US04322429
2-HYDROXY-BENZAMIDE OXIME
2-Hydroxybenzonitrile (10 grams), hydroxylamine HCl (7 g.) in 150 ml. methanol, and sodium methoxide (9.0 grams) were refluxed for about 18 hours. The reaction mixture was then filtered and the ethanol evaporated. Next water was added and the product extracted into ethyl acetate. Drying and evaporation of the solvent left an oily product which solidified upon standing. The identity of the final product was confirmed by NMR and IR analysis.

reactant | 2-Hydroxybenzonitrile | 10 grams | OC1=C(C#N)C=CC=C1 | C7H5NO
reactant | hydroxylamine HCl | 7 g | Cl.NO
reactant | sodium methoxide | 9.0 grams | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 2-HYDROXY-BENZAMIDE OXIME | OC1=C(C(N)=NO)C=CC=C1 | C7H8N2O2
